US08912186B2
1.28. 4-(5-Chloro-2-benzimidazolyl)-3-(4-chlorophenyl)butyramide (PS 174)
A 1:1-mixture of 7-chloro-3-phenyl-3,4-dihydropyrido[1,2-a]-benzimidazol-1(2H)-one and 8-chloro-3-phenyl-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one (222 mg)—see example 1.27.1—was dissolved in 1,4-dioxane (3 ml) at reflux temperature. A 25% solution of ammonia in water (2 ml) was added to give a light red solution. Refluxing was continued for 1 h. All volatiles were removed at the water aspirator to leave a light red oil, which was dissolved in acetone (3 ml). Soon precipitation occurs and the solid is isolated by suction filtration and washed with acetone. After drying in vacuo 4-(5-chloro-2-benzimidazolyl)-3-(4-chlorophenyl)-butyramide (120 mg) is obtained as colourless solid.

reactant | 7-chloro-3-phenyl-3,4-dihydropyrido[1,2-a]-benzimidazol-1(2H)-one | ClC1=CC2=C(N3C(=N2)CC(CC3=O)C3=CC=CC=C3)C=C1 | C17H13ClN2O
reactant | 8-chloro-3-phenyl-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one | 222 mg | ClC=1C=CC2=C(N3C(=N2)CC(CC3=O)C3=CC=CC=C3)C1 | C17H13ClN2O
reactant | ammonia | N | H3N
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 4-(5-Chloro-2-benzimidazolyl)-3-(4-chlorophenyl)butyramide | ClC1=CC2=C(N=C(N2)CC(CC(=O)N)C2=CC=C(C=C2)Cl)C=C1 | C17H15Cl2N3O
